KiCad schematic
.save all
.probe alli
.tran 10us 20ms uic
.option INTERP
.subckt OPAMP INon IInv out Vp Vm g=100k
  bGain gain 0 v={g*v(INon, IInv)}
  bOut out 0 v={v(gain)> v(Vp) ? v(Vp) : v(gain) < v(Vm) ? v(Vm) : v(gain)}
.ends OPAMP


.subckt SG3525 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
	* Voltage reference
	.param Vref = 5.1V
	bVref 16 12 v={Vref < v(15, 12) ? Vref : v(15) }

	* Error amplifier (opamp)
	xOpampError 2 1 9 15 12 OPAMP

	* Measure Ct
	aCtMeter 5 CtVal ctest
	.model ctest cmeter(gain=1.0)

	* Measure Rt
	vRtMeasI 16 6 0
	bRt 12 RtVal v={-Vref/i(vRtMeasI)}

	* Triangular wave oscillator
	* f = 1/(Ct*0.7*Rt)
	bFreq freq 12 v={(1/(v(CtVal)*0.7*v(RtVal))) < 1 ? 1 : 1/(v(CtVal)*0.7*v(RtVal))}
	aTriOsc freq carrier trigen
	.model trigen triangle(cntl_array = [10 500e3]
		+freq_array=[10 500e3] out_low = 0
		+out_high = {Vref} duty_cycle = 0.999)

	* Carrier debug (send it to OSC output)
	Rtie carrier 4 0

	* PWM
	bOutA 11 12 v={min(v(9), v(8)) > v(carrier)+v(12) ? v(doShutdown,12) < {Vref/2} ? v(13) : v(12) : v(12) }
	bOutB 14 12 v={min(v(9), v(8)) < v(carrier)+v(12) ? v(doShutdown,12) < {Vref/2} ? v(13) : v(12) : v(12) }

	* Soft Start
	.param IssVal = 50u
	Iss 12 8 {IssVal}
	a1 12 8 vclamp
	.model vclamp zener(v_breakdown={Vref} i_breakdown={IssVal})
	*.model vclamp sidiode(Vrev={Vref})

	* Shutdown
	bShutdown doShutdown 12 v={v(10,12) > 0.8 ? {Vref} : v(12) }; Threshold on pin 10 is around 0.8V
	sShutdownSwitch 8 12 doShutdown 12 sswitch ON
	.model sswitch SW(RON=3k VT={Vref/2})

.ends SG3525


C4 /ct GND 150n
R1 /rt GND 3.22k
C3 +15V GND 100n
XU1 /opamp_buff_fb Net-_U1-NI_ unconnected-_U1-SYNC-Pad3_ unconnected-_U1-OSC-Pad4_ /ct /rt /ct /soft_start /opamp_buff_fb GND /pwm_to_driver GND +15V unconnected-_U1-OUTB-Pad14_ +15V /vref SG3525
C1 /vref GND 100n
V3 Net-_U1-NI_ GND 4.5
V1 +15V GND 15
V2 GND -15V 15
C2 /soft_start GND 100n
.end
